US08232272B2
To a solution of 31.6 g (134 mM) of 1-[4-(isobutylamino)-3-nitrophenyl]-ethanone in 400 ml of methanol are added 3.2 g of 10% palladium-on-charcoal. The reaction medium is then placed under a hydrogen atmosphere at ambient pressure with vigorous stirring for 1 hour. The reaction medium is filtered through Celite and the solvent is evaporated off under vacuum to give 27.6 g of 1-[3-amino-4-(isobutylamino)phenyl]ethanone in quantitative yield, in the form of an oil.

reactant | 1-[4-(isobutylamino)-3-nitrophenyl]-ethanone | 134 mM, 31.6 g | C(C(C)C)NC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C12H16N2O3
solvent | methanol | 400 ml | CO | CH4O
catalyst | palladium-on-charcoal | 3.2 g | [Pd] | Pd
product | 1-[3-amino-4-(isobutylamino)phenyl]ethanone | 27.6 g, quantitative yield | NC=1C=C(C=CC1NCC(C)C)C(C)=O | C12H18N2O
